US07368578B2
To a mixture of methyl 3-[4-({2-methoxy-4-[({4-[(E)-2-(5-methyl-2-morpholin-4-yl-1,3-thiazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]phenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]benzoate (0.35 g), tetrahydrofuran (50 mL) and methanol (20 mL) was added 1N aqueous sodium hydroxide solution (20 mL), and the mixture was heated under reflux for 2 hrs. 1N Hydrochloric acid and water were added to acidify the reaction mixture, and the precipitated crystals were collected by filtration and washed with diethyl ether to give 3-[4-({2-methoxy-4-[({4-[(E)-2-(5-methyl-2-morpholin-4-yl-1,3-thiazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]phenoxy)methyl)-5-methyl-1,3-oxazol-2-yl]benzoic acid as brown crystals (0.25 g, yield 71%). Recrystallization from acetone-hexane gave brown prism crystals. melting point: 215-217 (dec) ° C.

reactant | methyl 3-[4-({2-methoxy-4-[({4-[(E)-2-(5-methyl-2-morpholin-4-yl-1,3-thiazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]phenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]benzoate | 0.35 g | COC1=C(OCC=2N=C(OC2C)C=2C=C(C(=O)OC)C=CC2)C=CC(=C1)COC1=NN(C=C1\C=C\C=1N=C(SC1C)N1CCOCC1)C1=CC=CC=C1 | C40H39N5O7S
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1N, 20 mL | [OH-].[Na+]
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | water | O | H2O
solvent | methanol | 20 mL | CO | CH4O
product | 3-[4-({2-methoxy-4-[({4-[(E)-2-(5-methyl-2-morpholin-4-yl-1,3-thiazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]phenoxy)methyl)-5-methyl-1,3-oxazol-2-yl]benzoic acid | 0.25 g, yield 71% | COC1=C(OCC=2N=C(OC2C)C=2C=C(C(=O)O)C=CC2)C=CC(=C1)COC1=NN(C=C1\C=C\C=1N=C(SC1C)N1CCOCC1)C1=CC=CC=C1 | C39H37N5O7S
